US09290511B2
Ethyl 2-[5-(4-fluorophenyl)-4-oxo-4-H-thieno[2,3-d]pyrimidin-2-yl]acetate (10 g, 0.0301 mol) in N,N-diethylaniline (50 mL) and phosphorous oxychloride (150 mL) was heated to 115° C. for 4.5 hrs. The mixture was concentrated in vacuo and the residue poured into ice-water and allowed to stand overnight. The aqueous solution was neutralized with sodium bicarbonate, filtered, then extracted with DCM. The reaction was repeated on a further 10 g of ethyl 2-[5-(4-fluorophenyl)-4-oxo-4-H-thieno[2,3-d]pyrimidin-2-yl]acetate and the DCM extract combined with that of the first batch. The solvent was removed in vacuo and the residue purified by silica column chromatography eluting first with petroleum ether/DCM 50:50 v/v, then petroleum ether/DCM 25:75 v/v, followed by DCM (100%). Further fractions were eluted from the column with 25% diethyl ether in DCM. Fractions were analysed by TLC, combined and concentrated to give ethyl 2-[4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-yl]acetate as a brown solid (14 g). LCMS RT=4.83 min, M+1=351.

reactant | Ethyl 2-[5-(4-fluorophenyl)-4-oxo-4-H-thieno[2,3-d]pyrimidin-2-yl]acetate | 0.0301 mol, 10 g | FC1=CC=C(C=C1)C1=CSC=2N=C(NC(C21)=O)CC(=O)OCC | C16H13FN2O3S
reactant | phosphorous oxychloride | 150 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-diethylaniline | 50 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
product | ethyl 2-[4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-2-yl]acetate | 14 g | ClC=1C2=C(N=C(N1)CC(=O)OCC)SC=C2C2=CC=C(C=C2)F | C16H12ClFN2O2S
